US04339453
A solution of 2-(n-dodecylamino)-4-(3-hydroxypropylamino)pyrimidine (0.67 g, 0.002 m) in dried dimethylformamide (10 ml) is treated with 3-bromo-1-propanol (0.31 g, 0.0022 m) and the resultant mixture is stirred at 35° C. until thin-layer chromatography (silica gel; 7.5 parts by volume chloroform, 0.5 parts by volume concentrated ammonium hydroxide, and 2.0 parts by volume methanol indicates the absence of starting pyrimidine. After cooling to room temperature, ether (50 ml) is added slowly to the mixture, the mixture is allowed to stir for 0.5 hour, the supernatant is decanted from the oil that separates, the oil is stirred vigorously with three separate portions of fresh ether, and then pumped dry to yield 0.65 g of 2-(n-dodecylamino)-1-(3-hydroxypropyl)-4-(3-hydroxypropylamino)pyrimidinium bromide as an oil.

reactant | 2-(n-dodecylamino)-4-(3-hydroxypropylamino)pyrimidine | 0.67 g | C(CCCCCCCCCCC)NC1=NC=CC(=N1)NCCCO | C19H36N4O
reactant | 3-bromo-1-propanol | 0.31 g | BrCCCO | C3H7BrO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(n-dodecylamino)-1-(3-hydroxypropyl)-4-(3-hydroxypropylamino)pyrimidinium bromide | 0.65 g | [Br-].C(CCCCCCCCCCC)NC1=[N+](C=CC(=N1)NCCCO)CCCO | InChI=1S/C22H42N4O2.BrH/c1-2-3-4-5-6-7-8-9-10-11-15-24-22-25-21(23-16-12-19-27)14-18-26(22)17-13-20-28;/h14,18,27-28H,2-13,15-17,19-20H2,1H3,(H,23,24,25);1H
